US08283353B2
5-(methoxymethyl)-N-(1-methylpropyl)-4H-1,2,4-triazol-3-amine
To a solution (5 mL) of 5-(methoxymethyl)-4H-1,2,4-triazol-3-amine (0.3 g) and butan-2-one (0.25 mL) in acetic acid was added sodium cyanoborohydride (0.6 g), and the mixture was stirred at room temperature for 16 hr. Water was added to the reaction mixture, and the solvent was evaporated under reduced pressure. The obtained residue was poured into saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with a mixed solvent of ethyl acetate and isopropyl alcohol (3:1). The obtained extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound as a colorless solid (0.2 g, 45%).

reactant | 5-(methoxymethyl)-4H-1,2,4-triazol-3-amine | 5 mL, 0.3 g | COCC=1NC(=NN1)N | C4H8N4O
reactant | butan-2-one | 0.25 mL | CC(CC)=O | C4H8O
reactant | sodium cyanoborohydride | 0.6 g | C(#N)[BH3-].[Na+]
reactant | Water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(methoxymethyl)-N-(1-methylpropyl)-4H-1,2,4-triazol-3-amine | 0.2 g, 45% | COCC=1NC(=NN1)NC(CC)C | C8H16N4O
